Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pseudoephedrine / Alavert
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
PRIMARY CARE PHYSICIAN:  ___ MD
CHIEF COMPLAINT:  Abdominal pain

HISTORY OF PRESENT ILLNESS:  ___ year old woman with history of 
hypertension and diabetes, presenting with R sided abdominal 
pain of ~1 week duration. She was seen in her PCP's office 
yesterday with vague R sided pain with intermittent nausea and 
mild anorexia, and was sent to ___ for labs and 
imaging. She had a CT A/P that revealed cholelithiasis and 
choledocholithiasis, without cholecystitis and CBD dilatation to 
11-12mm. She was advised to come to ___ but declined and went 
home, then returned to ___ ___ today. 

In the ___ today, initial VS: T 97.8, HR 89, BP 128/41, RR 20, 
99%RA. She was well appearing with mild RLQ pain, negative 
___. Labs largely unremarkable, including normal CBC, chem 
7 and LFT's.  RUQ U/S consistent with CT from yesterday, with 
cholelithiasis without cholecystitis with CBD dilatation. She 
received 1L IVF. ERCP was consulted, and they recommended 
admission for ERCP tomorrow. 

On the floor, she reports no abdominal pain or nausea, and would 
like to eat. She reports onset of R scapula/shoulder pain 
traveling into axilla and down R arm for ___ weeks, previously 
evaluated by PCP and prescribed ___ for ? pinched nerve. 
Wonders if this was beginning of her symptomology. She had 1 day 
of sharp RUQ pain with nausea, vomiting and diarrhea 1 week ago. 
This self resolved, and was followed by dull R flank "ache" 
without N/V. She has had mildly reduced appetite, but denies any 
correlation of discomfort with PO intake. Last ate last night. 
No fevers or chills. Has been constipated for the past 3 days. 
Denies any dysuria, urinary urgency or frequency. No jaundice. 
No melena or hematochezia. 
 
Past Medical History:
Hypertension
T2DM
Osteoarthritis
Hyperlipidemia
Obesity
Nephrolithiasis
S/p partial thyroidectomy for multinodular goiter
S/p lumbar fusion
 
Social History:
Originally from ___. Lives with her daughter, who is an NP 
in Neuro-oncology at ___. She is a non-smoker, no alcohol use. 


 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals: T 98.4, HR 68, BP 136/65, RR 18, 97% RA
General: well appearing elderly woman, lying comfortably in bed
HEENT:  sclera anicteric, conjunctiva clear, dry mucous 
membranes without oral lesions. 
Neck: supple without lymphadenopathy or thyromegaly. Healed 
surgical scar at the base of anterior neck. 
CV:  Regular rhythm, no murmurs
Lungs:  clear bilaterally with good air movement. No wheezes or 
crackles.
Abdomen: soft, tender to deep palpation in RLQ without rebound 
or guarding. Negative ___. Nondistended. Normoactive bowel 
sounds.  
GU:  No foley. No CVA tenderness
Ext:  warm, well perfused. No edema
Neuro:  AOx3
Skin:  No jaundice

DISCHARGE
AFEB VSS
General: well appearing elderly woman, 
HEENT:  sclera anicteric, conjunctiva clear, mmm
Neck: supple without lymphadenopathy or thyromegaly. 
CV:  Regular rhythm, no murmurs
Lungs:  clear bilaterally with good air movement.
Abdomen: soft, nontender. Nondistended. Normoactive bowel 
sounds.  
GU:  No foley. No CVA tenderness
Ext:  warm, well perfused. No edema
Neuro:  AOx3
Skin:  No jaundice

 
Pertinent Results:
ADMISSION LABS: 
___ 11:38AM BLOOD WBC-6.5 RBC-3.89* Hgb-11.8 Hct-36.8 
MCV-95 MCH-30.3 MCHC-32.1 RDW-13.3 RDWSD-46.2 Plt ___
___ 11:38AM BLOOD Neuts-68.9 ___ Monos-8.6 Eos-0.6* 
Baso-0.8 Im ___ AbsNeut-4.51 AbsLymp-1.35 AbsMono-0.56 
AbsEos-0.04 AbsBaso-0.05
___ 11:38AM BLOOD Glucose-143* UreaN-17 Creat-0.9 Na-137 
K-4.5 Cl-102 HCO3-25 AnGap-15
___ 11:38AM BLOOD ALT-22 AST-24 AlkPhos-59 TotBili-0.5 
DirBili-0.1 IndBili-0.4
___ 11:38AM BLOOD Albumin-3.9 Calcium-9.8 Phos-3.6 Mg-1.7
___ 12:30PM BLOOD Lactate-1.6
___ 11:45AM URINE Color-Straw Appear-Clear Sp ___
___ 11:45AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ 11:45AM URINE RBC-<1 WBC-3 Bacteri-FEW Yeast-NONE Epi-1 
TransE-<1

IMAGING:  
CT A/P (___) ___
IMPRESSION:
1. Multiple gallstones with common duct stones.
2. Either congenital or surgical interaction involving the 
lumbar
spine with lytic changes and high density material involving the 
L5
vertebral body, fusion of posterior elements L4-S1, Tarlov cysts 
S2,
degenerative changes L2-L3. Please correlate to history
3. Renal cysts and diverticular disease of the colon.

RUQ U/S ___
IMPRESSION: 
1. Cholelithiasis without cholecystitis. 
2. Common bile duct is mildly dilated. Intrahepatic bile ducts 
are normal size. 
3. A 3 mm echogenic focus is identified in the common bile duct 

ERCP Impression: •Normal major papilla 
•Cannulation of the biliary duct was performed with a 
sphincterotome using a free-hand technique. Contrast medium was 
injected resulting in complete opacification. The procedure was 
mildly difficult.   
•The common bile duct, common hepatic duct, right and left 
hepatic ducts, and biliary radicles were filled with contrast 
and well visualized.
•There was evidence of possible distal CBD filling defects 
consistent with bile duct stones. 
•A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome.
•The sphincterotome was exchanged for an extraction balloon 
catheter. Balloon sweeps were performed and yielded sludge and 9 
CBD stones.
• Further sweeps were performed until no debris was noted.  
Recommendations: •NPO overnight with aggressive IV hydration 
with LR at 200 cc/hr 
•If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated 
•Recommend outpatient surgical evaluation for possible 
cholecystectomy. 
•No aspirin, Plavix, NSAIDS, Coumadin for 5 days. 
 

___ 07:11AM BLOOD WBC-7.8 RBC-3.85* Hgb-11.6 Hct-35.6 
MCV-93 MCH-30.1 MCHC-32.6 RDW-13.1 RDWSD-44.3 Plt ___
___ 07:11AM BLOOD Glucose-119* UreaN-13 Creat-0.6 Na-141 
K-4.6 Cl-105 HCO3-28 AnGap-13
___ 07:11AM BLOOD ALT-14 AST-15 AlkPhos-54 TotBili-0.___holedocholithiasis: Presents with relatively mild, acute to 
subacute intermittent symptoms. Imaging shows CBD dilatation, 
but no cholecystitis. No cholestatic lab abnormalities and 
abdomen benign with RLQ pain, rather than RUQ pain or ___ 
sign. CT yesterday without abnormalities in the RLQ. No 
fevers/chills, and pain and nausea well controlled. ERCP removed 
multiple stones. Pt tolerated procedure well and ate full diet 
prior to discharge. Should consider cholecystectomy.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Gabapentin 100 mg PO TID 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. sitaGLIPtin 100 mg oral DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Lisinopril 40 mg PO DAILY 
6. ketotifen fumarate 0.025 % (0.035 %) ophthalmic BID 
7. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. Docusate Sodium 100 mg PO BID:PRN constipation 
3. Gabapentin 100 mg PO TID 
4. Lisinopril 40 mg PO DAILY 
5. sitaGLIPtin 100 mg oral DAILY 
6. ketotifen fumarate 0.025 % (0.035 %) ophthalmic BID 
7. Hydrochlorothiazide 12.5 mg PO DAILY 
resume ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
choledocholithiasis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted due to abdominal pain caused by gallstones. 
You had an ERCP which removed these stones. Please discuss with 
your primary care physician potentially removing your 
gallbladder to prevent this from happening again. 
Do not take aspirin, Plavix, NSAIDS such as ibuprofen, advil or 
aleve for 5 days
 
Followup Instructions:
___